* source PISH_GOZARESH
V_V3         0 N000033 9Vdc
X_U1         N00365 N00225 N000032 N000033 N00416 LM741
R_R1         N00306 N00225  10k  
R_R2         N00225 N00416  10k  
C_C2         N00225 N00416  100n  
V_V6         N00306 0  
+SIN 0 1 100 0 0 0
R_R3         0 N00365  10k  
V_V2         N000032 0 9Vdc
