* source AZ4Q21
V_V1         N00337 N00821 15Vdc
R_R5         VA 0  {a}  
R_R1         VA N00337  2.2k  
R_R2         0 N00337  3.3k  
R_R3         N00821 VA  4.7k  
R_R4         N00821 0  1.8k  
.PARAM  a=1k
