* source PISH_GOZARESH
V_V4         N03332 0  
+PULSE 0 4 .5m .5m .5m 18m 20m
R_R7         N03413 0  4.7k  
C_C3         N03386 N03413  680p  
L_L1         N03332 N03386  16m  
