* source AZ4
C_C1         0 N00256  10uf  
R_R1         N00256 3  2k  
R_R2         5 3  9k  
R_R3         0 5  4k  
R_R4         4 3  4k  
R_R5         0 4  2k  
L_L1         N00225 N00256  10mH  
V_V1         N00225 0 15Vdc
